US05023364
2) Ethyl 4-(6-acetyl-3-hydroxy-2-propylphenoxy)butanoate
A solution of ethyl 4-(6-acetyl-3-benzyloxy-2-propylphenoxy)butanoate (2.2 g) in ethanol (30 ml) was hydrogenated over 10% palladium on activated carbon (0.45 g) under atmospheric pressure at room temperature. After hydrogen absorption ceased, the catalyst was removed and the solution was evaporated. The residue was purified by silica gel column chromatography, eluting with benzene-ethyl acetate (1:4), to give the title compound (1.2 g, 70.5%) as yellow oil.

reactant | ethyl 4-(6-acetyl-3-benzyloxy-2-propylphenoxy)butanoate | 2.2 g | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)OCC1=CC=CC=C1 | C24H30O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.45 g | [Pd] | Pd
product | Ethyl 4-(6-acetyl-3-hydroxy-2-propylphenoxy)butanoate | 1.2 g, 70.5% | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)O | C17H24O5
